Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ketorolac / Tramadol / Vicodin / morphine
 
Attending: ___
 
Chief Complaint:
bilateral lower extremity swelling and foot pain, dyspnea

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH DVT/PE on lovenox, chronic aortic clot, atrial myxoma, 
COPD p/w leg swelling and dyspnea. The patient states his R leg 
initially had worsening swelling 2 nights ago. He was seen at 
___ that day, but left the ED AMA, returning the next 
day for ongoing R leg swelling and new LLE swelling. He notes 
b/l ___ were performed and were negative, and brought records 
of this to the ED. He also has pain in his R medial leg. He 
states he has been compliant with his lovenox. 

He also notes significant SOB during this time, mostly with 
ambulation and in the cold. Of note, the patient is currently 
homeless, 'living out of my car' this ___. Patient notes that 
his SOB may be worse while flat, but is unclear about this as 
has not been sleeping much. Also notes intermittent cough.

Denies hematuria/dysuria/urinary frequency, constipation, 
diarrhea, melena, bright red blood per rectum, vomiting.
 
Past Medical History:
AORTIC CLOT ___
ASPLENIA 
CHRONIC OBSTRUCTIVE PULMONARY DISEASE 
CHRONIC PAIN - chest, abdomen
COAGULOPATHY - chronic clots
DEEP VENOUS THROMBOPHLEBITIS, PULMONARY EMBOLISM, Multiple, on 
chronic lovenox, has IVC
HEMATURIA, chronic 
HEMOPTYSIS 
HYPERLIPIDEMIA 
HYPERTENSION 
LUNG NODULE 
TRACHEOBRONCHOMALACIA 
VIOLATION OF NARCOTICS CONTRACT 
DIVERTICULITIS
VENTRAL HERNIA S/P MESH REPAIR
 
Social History:
___
Family History:
Mother & uncle died of blood clots, father and sister with DM, 
grandmother with glaucoma
 
Physical Exam:
Admission Exam:
==================
VS:  97.6  115  113/79  20  95%RA
GEN: Alert, lying in bed, agitated
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: diffuse wheezing throughout 
COR: RRR (+)S1/S2 no m/r/g appreciated
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, b/l 2+ ___ pitting edema, up towards 
his knee 
NEURO: CN II-XII grossly intact, motor function grossly normal  
.
Discharge Exam:
==================
Vitals:   98.1  92  123/76  18  93% RA
GEN: Alert, lying in bed, NAD
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: transmitted breath sounds. faint wheezes throughout, no 
crackles
COR: RRR distant heart sounds, (+)S1/S2 no m/r/g appreciated
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, b/l trace-1+ pitting edema to lower 
leg
NEURO: CN II-XII grossly intact, motor function grossly normal   

 
Pertinent Results:
Labs on admission:
=====================

Reports/Imaging:
=====================

Microbiology:
=====================

Labs on discharge:
=====================
___ 04:45PM BLOOD WBC-11.0* RBC-3.70* Hgb-11.9* Hct-36.3* 
MCV-98 MCH-32.2* MCHC-32.8 RDW-18.7* RDWSD-66.5* Plt ___
___ 04:45PM BLOOD Neuts-92* Bands-0 Lymphs-6* Monos-2* 
Eos-0 Baso-0 ___ Myelos-0 NRBC-1* AbsNeut-10.12* 
AbsLymp-0.66* AbsMono-0.22 AbsEos-0.00* AbsBaso-0.00*
___ 04:45PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Spheroc-OCCASIONAL How-Jol-OCCASIONAL Pappenh-OCCASIONAL 
Acantho-OCCASIONAL
___ 04:45PM BLOOD ___ PTT-25.7 ___
___ 04:45PM BLOOD Plt Smr-NORMAL Plt ___
___ 04:45PM BLOOD Glucose-216* UreaN-18 Creat-0.7 Na-137 
K-4.7 Cl-109* HCO3-18* AnGap-15
___ 04:45PM BLOOD proBNP-445*
___ 04:45PM BLOOD cTropnT-<0.01
___ 08:20AM BLOOD Calcium-8.9 Phos-2.7 Mg-1.9
___ 06:46AM BLOOD WBC-8.6 RBC-4.02* Hgb-12.3* Hct-39.1* 
MCV-97 MCH-30.6 MCHC-31.5* RDW-18.1* RDWSD-63.3* Plt ___
___ 06:46AM BLOOD Plt ___
___ 06:46AM BLOOD Glucose-118* UreaN-13 Creat-0.7 Na-137 
K-3.9 Cl-98 HCO3-25 AnGap-18
___ 06:46AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.___ h/o DVT/PE on lovenox, COPD, chronic aortic clot, right 
atrial myxoma, HTN, HLD, anxiety, chronic pain on opiods 
chronically, p/w 2d acute b/l ___ pitting edema and pain, and 
dyspnea after recent hospitalizations for similar chief 
complaints. 
.
# Dyspnea
# ___ swelling
CTA neg for PE, ___ neg, CXR neg for edema. Possible new HFpEF. 
BNP in the 400s. TTE was suboptimal, but EF >55% and LV was not 
grossly enlarged; RA/myxoma was not visualized. 
___ edema improved with IV diuresis. He mentioned he was drinking 
5 cans of V8 juice per day (total of 2g sodium) which may have 
contributed to his swelling, but also has been on 60-80mg pred 
daily for COPD flare recently which may have contributed as 
well. Did not require additional oxygen. 
Dyspnea improved with albuterol and ipratropium nebs, as well as 
advair and then tiotropium. Has multiple risk factors for 
HF,including HTN, HLD, atrial myxoma, PEs, COPD, and an echo 
from ___ showing signs of hypertrophy. EKG showing RAH. CT 
shows no pulmonary edema. Net negative 2L total documented (poor 
logging of I/Os during part of stay)
.
# Chest pain
Chest pain was ongoing and was likely MSK in origin due to 
cough, worsened with coughing. Work up negative for cardiac 
etiology.
.
#COPD: Diffuse wheezing throughout and dyspnea. Satting well on 
RA.
- albuterol nebs q2h prn while inpatient with improvement
- tiotropium 1 capsule daily while inpatient with improvement
- home fluticasone / salmeterol
.
#Social issues: chronically homeless. Lives in car. States that 
he has nowhere to go after he leaves here. Social work spent 
considerable time with the paitent, and offered information on 
several shelters, but patient declined. Spent significant time 
counseling patient on importance of setting up primary care (had 
previously been seen in ___, but currently no active PCP), 
but patient did not seem amenable to this. Follow up appointment 
was coordinated for the following week.
.
Transitional issues:
[]establish a primary care relationship to manage medications 
and decrease use of emergency departments for non-emergent 
issues
[]follow-up right atrial myxoma - suboptimal TTE on admission 
[]optimize pain management regimen with non-opioid medications
[]assess fluid status, consider adjustments to diuretics, may 
not need them long term
[]check electrolytes for evidence of ___
[]social work for homelessness
[]discharge weight 242 lbs
[]please assess for hypertension. given lower extremity 
swelling, amlodipine was stopped, and patient with SBPs in the 
100s-120s prior to discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. amLODIPine 10 mg PO DAILY 
3. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
4. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC Q12H 
RX *enoxaparin 120 mg/0.8 mL 1 syringe subcuteonous every 12 
hours Disp #*60 Syringe Refills:*0 
2.  Guaifenesin-Dextromethorphan 10 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin [Adt Robitussin Peak Cld DM 
Max] 200 mg-10 mg/5 mL 10 mL by mouth every 6 hours Refills:*0 
3.  LORazepam 0.5-1 mg PO Q8H:PRN agitation 
RX *lorazepam [Ativan] 0.5 mg 0.5-1 mg by mouth every 8 hours 
Disp #*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
5.  Tiotropium Bromide 1 CAP IH DAILY copd 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
inhaled daily Disp #*15 Capsule Refills:*0 
6.  Torsemide 20 mg PO DAILY edema 
Stop taking and call your PCP if you feel lightheaded, lose 
consciousness, or develop severe cramps. 
RX *torsemide [Demadex] 20 mg 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
8.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
9.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heart failure with preserved ejection fraction
Chronic obstructive pulmonary disease
Chronic pain
Anxiety disorder
Opioid use disorder
Atrial myxoma
Chronic DVT/PE
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure treating you for leg swelling/pain, difficulty 
breathing, and chest pain. You received tests in the emergency 
department which showed you were not having a heart attack, and 
a chest x-ray which did not show pneumonia. 

Your difficulty breathing was likely due to your COPD. You were 
treated with albuterol, Advair, and ipratropium/tiotropium, and 
improved. 

Because you were having increased swelling of your legs, tests 
were done to make sure there was no clots in your legs on lungs. 
An ultrasound of your heart did not reveal a definitive cause. 
The swelling may have been triggered by high salt intake or by 
the steroids you were recently taking. Diuretics (water pills) 
help your body remove excess fluid from the body through the 
urine, which helped you to dramatically decrease the swelling in 
your legs. 

It will be very important for you to begin seeing a primary care 
provider ___. They can help manage your pain medications 
as well as your inhalers and diuretics and assess your pain. 
They can also help organize your healthcare for any other 
issues. Building a relationship with a primary care provider 
___ also reduce your need to be hospitalized and be seen in 
emergency departments.

Please see below for an appointment to establish care at ___ 
___, where your insurance is 
accepted. Please take your medications as prescribed. 

We wish you the best,
Your ___ team
 
Followup Instructions:
___